US04808605
89 g (374 mmol) of tert.butyl (S)-6-aminoheptanoate hydrochloride are dissolved in 1.3 l of methylene chloride. The solution is saturated with hydrogen chloride and heated to reflux for 4 hours. After filtering off and drying the precipitate formed there are obtained 60.8 g (89.5%) of (S)-6-aminoheptanoic acid hydrochloride, m.p. 157°-160°.

reactant | tert.butyl (S)-6-aminoheptanoate hydrochloride | 374 mmol, 89 g | Cl.N[C@H](CCCCC(=O)OC(C)(C)C)C
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 1.3 l | C(Cl)Cl | CH2Cl2
product | (S)-6-aminoheptanoic acid hydrochloride | 60.8 g, 89.5% | Cl.N[C@H](CCCCC(=O)O)C | InChI=1S/C7H15NO2.ClH/c1-6(8)4-2-3-5-7(9)10;/h6H,2-5,8H2,1H3,(H,9,10);1H/t6-;/m0./s1
